US03944557
3.37 gms (.01 mole) of 2-amino-6-chloro-5-cyano-1-n-hexyl-4-n-hexylamino pyridinium chloride (compound II - Table 1) was dissolved in methanol and 1.0 gm (0.01 mole) of triethylamine and 0.8 gms (0.011 mole) of n-butylamine added. The solution was refluxed for 1 hour and on cooling 2.5 gms (60% yield) of 2-amino-6-n-butylamino-5-cyano-1-n-hexyl-4-n-hexylamino pyridinium chloride (compound 42 - Table 2) crystallised out. [m.p. 179° - 180°C. c 64.88 (64.6) H 9.81 (9.78) N17.11 (17.1)].

reactant | 2-amino-6-chloro-5-cyano-1-n-hexyl-4-n-hexylamino pyridinium chloride | .01 mole, 3.37 gms | [Cl-].NC1=[N+](C(=C(C(=C1)NCCCCCC)C#N)Cl)CCCCCC
reactant | triethylamine | 0.01 mole, 1.0 gm | C(C)N(CC)CC | C6H15N
reactant | n-butylamine | 0.011 mole, 0.8 gms | C(CCC)N | C4H11N
solvent | methanol | CO | CH4O
product | 2-amino-6-n-butylamino-5-cyano-1-n-hexyl-4-n-hexylamino pyridinium chloride | 2.5 gms, 60% yield | [Cl-].NC1=[N+](C(=C(C(=C1)NCCCCCC)C#N)NCCCC)CCCCCC | InChI=1S/C22H39N5.ClH/c1-4-7-10-12-15-25-20-17-21(24)27(16-13-11-8-5-2)22(19(20)18-23)26-14-9-6-3;/h17H,4-16H2,1-3H3,(H3,24,25,26);1H
